US06133303
Step 3: 6-[2-(1H-1-Imidazolyl)propoxy]-1,2,3,4-tetrahydro-1-naphthalenone
Following the procedure of Example 76, but using 1.79 g (14.2 mmol) of 2-(1H-1-imidazolyl)-1-propanol and 2.0 g (12.3 mmol) of 6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone, there was obtained 1.63 g (49% yield) of the product as a white solid, mp 132-135° C. The structure was confirmed by NMR and mass spectroscopy. MS m/z 271 (M+H+).

reactant | 2-(1H-1-imidazolyl)-1-propanol | 14.2 mmol, 1.79 g | N1(C=NC=C1)C(CO)C | C6H10N2O
reactant | 6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone | 12.3 mmol, 2.0 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
product | 6-[2-(1H-1-Imidazolyl)propoxy]-1,2,3,4-tetrahydro-1-naphthalenone | 1.63 g, 49% yield | N1(C=NC=C1)C(COC=1C=C2CCCC(C2=CC1)=O)C | C16H18N2O2
